US09079919B2
(R)—N-(2′-Amino-5′,5′-difluoro-2,3,5′,6′-tetrahydrospiro[indene-1,4′-[1,3]oxazine]-6-yl)-5-fluoropicolinamide
The condensation of (R)-5′,5′-difluoro-2,3,5′,6′-tetrahydrospiro[indene-1,4′-[1,3]oxazine]-2′,6-diamine (intermediate A7.3) and 5-fluoropicolinic acid yielded the title compound (17% yield) as an off-white solid. MS (ISP): m/z=377.2 [M+H]+.

reactant | (R)-5′,5′-difluoro-2,3,5′,6′-tetrahydrospiro[indene-1,4′-[1,3]oxazine]-2′,6-diamine | FC1([C@@]2(N=C(OC1)N)CCC1=CC=C(C=C12)N)F | C12H13F2N3O
reactant | 5-fluoropicolinic acid | FC=1C=CC(=NC1)C(=O)O | C6H4FNO2
product | (R)—N-(2′-Amino-5′,5′-difluoro-2,3,5′,6′-tetrahydrospiro[indene-1,4′-[1,3]oxazine]-6-yl)-5-fluoropicolinamide | 17% yield | NC=1OCC([C@@]2(N1)CCC1=CC=C(C=C12)NC(C1=NC=C(C=C1)F)=O)(F)F | C18H15F3N4O2
